Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Right foot abscess
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ male patient who presents to the ED
following an appointment ___ ___ clinic w/ Dr. ___.
Patient was found to have a right plantar foot abscess that was
drained extensively ___ clinic. Patient was directed to the ED 
per
Dr. ___ IV ___ and possible OR debridement. Patient also
complained of right calf tenderness that has been present for 
the
past several days. He was also instructed to obtain a RLE
ultrasound to r/o DVT.  Patient explains that he has neuropathy
___ both feet after he had Legionnaires' disease.  He also
suffered from a PER ankle fracture ___ ___ that left him with a
deformity to his right foot and ankle increasing pressure to his
forefoot for which he wears a brace for.  He has been seeing Dr.
___ for the past several weeks for wound care of 
his
right foot ulceration but just recently noticed that there was
surrounding erythema to the right foot, purulent drainage from
the wound, and increased swelling. He denies any vomiting,
shortness of breath but does admit to some chills and nausea.
 
Past Medical History:
Neuropathy of the lower extremities, right plantar ulceration

 
Social History:
___
Family History:
Positive for cancer, diabetes, heart disease

 
Physical Exam:
Admission Physical Exam:
General: Well appearing male ___ no acute distress.
Heart: Regular rate and rhythm peripherally
Lungs: Breathing comfortably on room air.
ABD: Soft, NT, ND
Right lower extremity focused exam: ___ pulses palpable. Cft 
<3
seconds to the digits. Skin temperature warm to cool from
proximal tibia to distal digits. Protective sensation 
diminished.
There is a full-thickness ulceration present ___ metatarsal
head on the right plantar foot with a hyperkeratotic border.  
The
ulcer measures 1 cm x 0.4 cm x 0.3 cm. It does not probe to 
bone,
there was purulent drainage expressed once wound was incised,
minimal surrounding erythema and increased edema. The right calf
is also edematous w/ minimal tenderness to palpation. There is
thickened hyperkeratotic tissue under the medial aspect of the
midfoot. Semirigid hammertoes 2 through 4 on the right foot.

Discharge Physical Exam:
vitals: reviewed ___ ___
General: Well appearing male ___ no acute distress.
CV: RRR
PULM: breathing comfortably on RA
ABD: soft, nontender
Right lower extremity focused exam: ___ pulses palpable. Cft 
<3
seconds to the digits. Skin temperature warm to cool from
proximal tibia to distal digits. Protective sensation 
diminished.
There is a full-thickness ulceration present ___ metatarsal
with incision made from prior bedside I&D into first interspace.
No purulent drainage expressed today at bedside. Erythema
continues to improve. The wound does not probe to bone. Mild
tenderness to palpation along the right lateral malleolus but
improving. 

 
Pertinent Results:
___ 08:00AM BLOOD WBC-7.0 RBC-4.18* Hgb-13.5* Hct-40.6 
MCV-97 MCH-32.3* MCHC-33.3 RDW-12.6 RDWSD-45.1 Plt ___
___ 06:40AM BLOOD WBC-8.4 RBC-4.20* Hgb-13.6* Hct-40.8 
MCV-97 MCH-32.4* MCHC-33.3 RDW-12.5 RDWSD-44.8 Plt ___
___ 11:00AM BLOOD WBC-9.6 RBC-4.38* Hgb-14.1 Hct-41.9 
MCV-96 MCH-32.2* MCHC-33.7 RDW-12.6 RDWSD-44.6 Plt ___
___ 06:40AM BLOOD WBC-8.0 RBC-4.33* Hgb-14.0 Hct-41.5 
MCV-96 MCH-32.3* MCHC-33.7 RDW-12.7 RDWSD-45.1 Plt ___
___ 06:00AM BLOOD WBC-7.4 RBC-4.39* Hgb-14.3 Hct-41.2 
MCV-94 MCH-32.6* MCHC-34.7 RDW-12.3 RDWSD-42.7 Plt ___
___ 07:04AM BLOOD WBC-6.4 RBC-4.56* Hgb-14.8 Hct-42.7 
MCV-94 MCH-32.5* MCHC-34.7 RDW-12.6 RDWSD-43.3 Plt ___
___ 10:57AM BLOOD WBC-10.0 RBC-5.18 Hgb-16.6 Hct-48.3 
MCV-93 MCH-32.0 MCHC-34.4 RDW-12.4 RDWSD-42.8 Plt ___
___ 07:04AM BLOOD Neuts-76.2* Lymphs-10.9* Monos-10.1 
Eos-1.9 Baso-0.6 Im ___ AbsNeut-4.88 AbsLymp-0.70* 
AbsMono-0.65 AbsEos-0.12 AbsBaso-0.04
___ 10:57AM BLOOD Neuts-87.9* Lymphs-4.8* Monos-6.2 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-8.81* AbsLymp-0.48* 
AbsMono-0.62 AbsEos-0.01* AbsBaso-0.05
___ 08:00AM BLOOD Glucose-82 UreaN-7 Creat-0.7 Na-139 K-4.3 
Cl-98 HCO3-28 AnGap-13
___ 06:40AM BLOOD Glucose-89 UreaN-8 Creat-0.6 Na-140 K-4.1 
Cl-99 HCO3-27 AnGap-14
___ 11:00AM BLOOD Glucose-91 UreaN-7 Creat-0.7 Na-138 K-4.0 
Cl-98 HCO3-28 AnGap-12
___ 06:40AM BLOOD Glucose-86 UreaN-7 Creat-0.8 Na-139 
K-3.4* Cl-97 HCO3-28 AnGap-14
___ 06:00AM BLOOD Glucose-101* UreaN-7 Creat-0.6 Na-138 
K-3.3* Cl-97 HCO3-22 AnGap-19*
___ 07:04AM BLOOD Glucose-103* UreaN-8 Creat-0.8 Na-134* 
K-3.0* Cl-96 HCO3-24 AnGap-14
___ 10:57AM BLOOD Glucose-100 UreaN-6 Creat-0.9 Na-131* 
K-3.5 Cl-89* HCO3-25 AnGap-17
___ 08:00AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.1
___ 06:40AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.1
___ 11:00AM BLOOD Calcium-8.7 Phos-2.2* Mg-2.1
___ 06:40AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.9
___ 06:00AM BLOOD Calcium-8.6 Phos-4.1 Mg-1.9
___ 07:04AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.9
___ 08:00AM BLOOD CRP-58.0*
___ 06:40AM BLOOD CRP-99.5*
___ 06:00AM BLOOD CRP-108.6*
___ 06:00AM BLOOD Vanco-<4.0*
___ 11:29AM BLOOD Lactate-1.0

___ 10:57 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0550. 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

___ 11:10 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         Susceptibility testing performed on culture # ___ 
___. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

___ 10:02 am ABSCESS      Source: R plantar foot. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


Imaging:
Right FXR ___:
On the lateral view, soft tissue defect/ulceration is noted 
plantar to a 
proximal phalanx.  No definite acute cortical destruction is 
seen to suggest acute osteomyelitis radiographically, however, 
there is osteopenia of the second through fifth toes making 
assessment suboptimal.  Screws traverse the tibial talar joint.  
There are severe degenerative change at the tibiotalar joint.  
Degenerative changes are also seen on the dorsal aspect of the 
tarsal bones. 

Right lower extremity US ___:
No evidence of deep venous thrombosis ___ the right lower 
extremity veins.

TTE ___:
IMPRESSION: 
 1) Normal biventricular regional/global systolic function. 
 2) No echocardiographic evidence using TTE of endocarditis seen

R Ankle Films ___:
IMPRESSION:  
  
At the distal tibial syndesmosis, 1 of the 2 screws is broken.  
No acute 
fracture.  No definite focal erosion to suggest osteomyelitis 
radiographically.  MRI may be more sensitive for evaluation of 
early 
osteomyelitis 

R Foot MRI ___:
IMPRESSION: 

1. No convincing evidence of osteomyelitis. 
2. No rim enhancing fluid collection seen, please note imaging 
is suboptimal as the patient was moving throughout the study. 
3. Moderate degenerative changes at the first 
metatarsophalangeal joint with an associated joint effusion.  No 
adjacent bone marrow edema to suggest septic arthritis. 

CXR ___:
IMPRESSION:  
  
No prior chest radiographs available. 
  
Left PIC line ends ___ the low SVC.  Lungs clear.  Normal 
cardiomediastinal and hilar silhouettes and pleural surfaces. 

 
Brief Hospital Course:
The patient presented to the emergency department on ___ and 
was evaluated by the podiatric surgery team. He was seen prior 
to arrival ___ clinic by Dr. ___. The patient was found to 
have right foot plantar abscess and was admitted to the 
podiatric surgery service. While ___ clinic, the abscess was 
incised and drained and a culture was taken. Additionally, there 
was a concern regarding his newfound swelling and pain to the 
right calf region while ___ clinic. ___ the emergency department 
on ___, a right lower extremity ultrasound was taken and did 
not show any signs of a DVT. Additionally, plain films were 
taken of the right foot and there was no definite acute cortical 
destruction seen to suggest acute osteomyelitis 
radiographically. 

While on the floor, the patient was started on IV ___ 
(vancomycin/unasyn). He was also noted to have a highly elevated 
CRP of 108.6. Blood cultures were also sent on ___ which showed 
positive growth for coag positive staph aureus. The infectious 
disease team was consulted and they recommended trending his 
CRP, obtaining an MRI of the R foot and obtaining a TTE. 

The patient had a TTE on ___ which did not show any signs of 
endocarditis or any other malformations. His CRP continued to 
decrease to 99.5 and the wound remained clean w/ no purulent 
drainage. The decision was made to not take the patient to the 
OR for a formal washout of the right foot wound. The patient 
complained of night sweats on ___ and thus an MRI of the right 
foot was ordered. The MRI showed no acute signs of osteomyelitis 
or deep abscesses. The patient also complained of right ankle 
pain and plain films were ordered. The films displayed an old 
right ankle ORIF fracture repair with one of the syndesmotic 
screws broken, however no radiographic findings consistent w/ 
osteomyelitis. At this point, ID recommended switching his 
antibiotics to 2g cefazolin q8hrs due to his sensitivities on 
gram stain and continuing his antibiotic therapy for 6 weeks due 
to positive blood cultures. The patient had a PICC line placed 
and the location was found to be appropriate for IV antibiotic 
therapy. He will continue to have IV antibiotic therapy at home 
and also have weekly labs drawn. 

At the time of discharge the patient's pain was well controlled 
with oral medications, the wound looked to be clean ___ 
appearance, and the patient was voiding/moving bowels 
spontaneously. The patient is WBAT ___ the right lower extremity 
___ a surgical shoe. The patient will follow up with Dr. ___ 
___ routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  CeFAZolin 2 g IV Q8H 
RX *cefazolin ___ dextrose (iso-os) 2 gram/100 mL 2 gram IV every 
eight (8) hours Disp #*126 Intravenous Bag Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN Constipation  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  Miconazole Powder 2% 1 Appl TP TID:PRN rash 
RX *miconazole nitrate [Lotrimin AF Jock Itch Powder] 2 % 1 
Application three times a day Disp #*1 Spray Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
6.  Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % ___ mL intravenous daily 
Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right foot abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service for a right foot abscess. You 
were given IV antibiotics while here. You are being discharged 
home with the following instructions:
ACTIVITY:
There are restrictions on activity. Please remain weight bearing 
as tolerated to your right foot ___ a surgical shoe until your 
follow up appointment. You should keep this site elevated when 
ever possible (above the level of the heart!)
No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness ___ or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.
Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.
BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub.
Avoid taking a tub bath, swimming, or soaking ___ a hot tub for 4 
weeks after surgery or until cleared by your physician.
MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery.
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods ___ your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day.
DIET:
There are no special restrictions on your diet postoperatively. 
Poor appetite is not unusual for several weeks and small, 
frequent meals may be preferred.
FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments.
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.
FOLLOW UP:
Please follow up with your Podiatric Surgeon, Dr. ___. You 
will have follow up ___ the Podiatric Surgery Clinic ___ ___ days 
post-operation for evaluation. Call ___ to schedule 
appointment upon discharge.
Please follow up with your primary care doctor regarding this 
admission within ___ weeks and for and any new 
medications/refills.

 
Followup Instructions:
___